US06653438B1
ii) 2,7-Dibromo-9-(2,5-dimethylphenyl)-9-(4-hydroxyphenyl)fluorene
9.5 g of phenol were mixed with 22.2 g of 2,7-dibromo-9-(2,5-dimethylphenyl)fluoren-9-ol, 25 ml of toluene and 0.1 ml of mercapto-propionic acid. 5 ml of concentrated sulfuric acid were subsequently added dropwise. The batch was then stirred at 60° C. for about 2 hours, and finally 100 ml of MeOH and 100 ml of water were added. The solid was filtered off with suction and further purified by stirring with ethanol.

reactant | phenol | 9.5 g | C1(=CC=CC=C1)O | C6H6O
reactant | 2,7-dibromo-9-(2,5-dimethylphenyl)fluoren-9-ol | 22.2 g | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)(O)C1=C(C=CC(=C1)C)C | C21H16Br2O
reactant | mercapto-propionic acid | 0.1 ml | SC(C(=O)O)C | C3H6O2S
reactant | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 100 ml | O | H2O
solvent | MeOH | 100 ml | CO | CH4O
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 2,7-Dibromo-9-(2,5-dimethylphenyl)-9-(4-hydroxyphenyl)fluorene | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)(C1=CC=C(C=C1)O)C1=C(C=CC(=C1)C)C | C27H20Br2O
